US06043242
a) 3-[(3-chloro-2-chloromethyl-pyridin-4-yl)-methyl-amino]-propanol
Thionyl chloride (3.5 ml, 47.6 mmol), dissolved in dichloromethane (25 ml), is added dropwise at 4° C. to a solution of 3-[(3-chloro-2-hydroxymethyl-pyridin-4-yl)-methyl-amino]-propanol (5.0 g, 21.6 mmol) in dichloromethane (75 ml). The solution is stirred for 1 h at this temperature, triturated with ice water and neutralized with saturated sodium bicarbonate solution. After separation of the organic layer the aqueous phase is extracted with dichloromethane. The combined organic extracts are washed with water, dried over magnesium sulfate and evaporated in vacua. The residue is employed without additional purification for the synthesis described in step b).

reactant | Thionyl chloride | 47.6 mmol, 3.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-[(3-chloro-2-hydroxymethyl-pyridin-4-yl)-methyl-amino]-propanol | 21.6 mmol, 5.0 g | ClC=1C(=NC=CC1N(CCCO)C)CO | C10H15ClN2O2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 3-[(3-chloro-2-chloromethyl-pyridin-4-yl)-methyl-amino]-propanol | ClC=1C(=NC=CC1N(CCCO)C)CCl | C10H14Cl2N2O
